US08124606B2
Compound 94A: Ethyl 2-(isopropylamino)acetate:
To a suspension of ethyl 2-aminoacetate hydrochloride (20 g, 143.28 mmol) in THF (400 mL) was added glacial acetic acid (20 mL) followed by acetone (11.59 mL, 151.62 mmol). The reaction was stirred 30 min at room temperature. Sodium triacetoxyborohydride (60.73 g, 286.56 mmol) was added over the course of one hour. The reaction was poured slowly into a vigorously stirred biphasic mixture of water (300 mL) and ethyl acetate (800 mL). The aqueous layer was adjusted to pH 13 using a solution of 50% (weight) NaOH. The mixture was stirred 30 min and poured into a separatory funnel. The organic layer was collected and the aqueous layer was back extracted with ethyl acetate (3×200 mL). The organic layers were combined, washed with brine (300 mL), dried with sodium sulfate, and concentrated to yield the title compound (17.6 g, 85%) as a translucent oil which was used in the next step without further purification. [M+H] calc'd for C7H15NO2, 146. found, 146.

reactant | ethyl 2-aminoacetate hydrochloride | 143.28 mmol, 20 g | Cl.NCC(=O)OCC
reactant | acetone | 151.62 mmol, 11.59 mL | CC(=O)C | C3H6O
reactant | Sodium triacetoxyborohydride | 286.56 mmol, 60.73 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 300 mL | O | H2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | Ethyl 2-(isopropylamino)acetate | 17.6 g, 85% | C(C)(C)NCC(=O)OCC | C7H15NO2
